US08114893B2
Step 2: Preparation of 6-bromo-2,3-dihydro-1H-inden-1-one (1B)
3-(4-Bromophenyl)propionyl chloride (36.9 g, 0.15 mol) was dissolved in 300 mL DCM and AlCl3 (23.76 g, 0.18 mol) was added slowly. At the completion of the reaction, the mixture was heated to 40° C. and refluxed for 90 minutes and then poured onto ice. Dilute HCl aqueous solution was added and the mixture was extracted with diethyl ether. The organic layer was washed with 2M HCl aqueous solution, water and brine. The product was purified by column chromatography on silica gel eluting with PE:EA (20:1) to obtain a pale brown solid. After removing solvent under vacuum, 23 g (75%) of the desired product 6-bromo-2,3-dihydro-1H-inden-1-one (1B): 1H NMR (DMSO-d6, 400 MHz) δ2.6 (m, 2H), 3.1 (m, 2H), 7.55 (m, 1H), 7.1 (m, 1H), 7.85 (m, 1H).

reactant | 3-(4-Bromophenyl)propionyl chloride | 0.15 mol, 36.9 g | BrC1=CC=C(C=C1)CCC(=O)Cl | C9H8BrClO
reactant | AlCl3 | 0.18 mol, 23.76 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 6-bromo-2,3-dihydro-1H-inden-1-one | BrC1=CC=C2CCC(C2=C1)=O | C9H7BrO
